US07662778B2
(8) Synthesis of Boc-D-Tyr(Me)-L-Ile-DL-Pip-OBzl
TFA (4 mL) was added to Boc-L-Ile-DL-Pip-OBzl (2.64 g, 6.1 mmol) under ice-cold conditions, and this was left to stand for 30 minutes. TFA was removed by evaporation, then Boc-D-Tyr(Me)-OH (2.16 g, 7.3 mmol) and HOBt.H2O (1.40 g, 9.15 mmol) were added, and this mixture was dissolved in DMF (10 mL). While cooling on ice, HBTU (3.47 g, 9.15 mmol) and Et3N (3.51 ml, 25 mmol) were added to the solution, and this was stirred for 1 hour. The reaction solution was concentrated, and the residue was extracted with ethyl acetate. The extract was washed 3 times each with 10% aqueous citric acid solution, 4% aqueous sodium bicarbonate solution, and saturated brine, and dried over magnesium sulfate, and then ethyl acetate was removed by evaporation. Purification of the residue by silica gel chromatography yielded the desired product as a foam (column: Merck Kieselgel 60 Φ 5.0×12 cm, eluent: CHCl3/MeOH, 99/1). TLC: Rf, 0.75 (CHCl3/MeOH, 9/1). Yield: 2.45 g (4.02 mmol, 66%).

reactant | TFA | 4 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | Boc-L-Ile-DL-Pip-OBzl | 6.1 mmol, 2.64 g | N([C@@H]([C@@H](C)CC)C(=O)N1C(C(=O)OCC2=CC=CC=C2)CCCC1)C(=O)OC(C)(C)C | C24H36N2O5
reactant | Boc-D-Tyr(Me)-OH | 7.3 mmol, 2.16 g | N([C@H](CC1=CC=C(C=C1)OC)C(=O)O)C(=O)OC(C)(C)C | C15H21NO5
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H2O | 9.15 mmol, 1.40 g | O | H2O
reactant | HBTU | 9.15 mmol, 3.47 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Et3N | 25 mmol, 3.51 ml | CCN(CC)CC | C6H15N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | Boc-D-Tyr(Me)-L-Ile-DL-Pip-OBzl | N([C@H](CC1=CC=C(C=C1)OC)C(=O)N[C@@H]([C@@H](C)CC)C(=O)N1C(C(=O)OCC2=CC=CC=C2)CCCC1)C(=O)OC(C)(C)C | C34H47N3O7
